US08278331B2
In a Parr Shaker flask was combined 2-chloro-4-(2,5-difluoro-4-nitrophenoxy)pyridine (11.68 g, 40.8 mmol) and MeOH (200 ml) under argon. Raney Ni (50% wet, 0.955 g, 8.15 mmol) was added. The argon atmosphere was removed and replaced with hydrogen (10-20 psi) and the reaction mixture shaken under hydrogen for 4 hours. The completed reaction mixture was filtered through a pad of Celite® and the filtrate was concentrated to dryness to provide 4-(2-chloropyridin-4-yloxy)-2,5-difluoroaniline (8.2 g, 72% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.28 (d, J=5.9 Hz, 1H), 7.25 (dd, J=11.2, 7.5 Hz, 1H), 7.02 (dd, J=2.2 Hz, 1H), 6.95 (dd, J=5.8, 2.0 Hz, 1H), 6.74 (dd, J=12.3, 8.3 Hz, 1H), 5.57 (s, 2H); MS (ESI): m/z 257.0 [M+H]+

reactant | 2-chloro-4-(2,5-difluoro-4-nitrophenoxy)pyridine | 40.8 mmol, 11.68 g | ClC1=NC=CC(=C1)OC1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C11H5ClF2N2O3
catalyst | Ni | 8.15 mmol, 0.955 g | [Ni] | Ni
solvent | MeOH | 200 ml | CO | CH4O
product | 4-(2-chloropyridin-4-yloxy)-2,5-difluoroaniline | 8.2 g, 72% yield | ClC1=NC=CC(=C1)OC1=CC(=C(N)C=C1F)F | C11H7ClF2N2O
